US08497368B2
6-((6-Chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoline (Intermediate L)
A solution of N′-(6-chloropyridazin-3-yl)-2-(quinolin-6-yl)acetohydrazide (8 g crude, 25.5 mmol) in 250 mL acetic acid was heated at 50° C. for 5 hours. After the reaction was completed, the solvent was evaporated and the crude was dissolved in EtOAc and filtered. The solid was mainly the impurity dicyclohexyl urea and the product dissolved in EtOAc. Solvent was evaporated and resulted the title compound as a yellow solid (4 g, 53%). 1H-NMR (400 MHz, MeOH-d4) δ ppm 8.82 (d, 1H), 8.33 (d, 1H), 8.25 (d, 1H), 8.0 (d, 1H), 7.93 (s, 1H), 7.83 (d, 1H), 7.53 (m, 1H), 7.42 (d, 1H), 4.79 (s, 2H). LCMS (method A): [MH]+=296.0, tR=1.88 min.

reactant | N′-(6-chloropyridazin-3-yl)-2-(quinolin-6-yl)acetohydrazide | 25.5 mmol, 8 g | ClC1=CC=C(N=N1)NNC(CC=1C=C2C=CC=NC2=CC1)=O | C15H12ClN5O
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
product | 6-((6-Chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoline | 4 g, 53% | ClC=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=CC=NC1=CC2 | C15H10ClN5
